US06103910
0.17 g (0.29 mmol) (R)-1-[3-[6-[3-[(R)-2-benzyloxycarbonyl-pyrrolidin-1-yl]-3-oxo-propyl]-pyridin-2-yl]-propionyl]-pyrrolidine-2-carboxylic acid benzyl ester in 100 ml ethanol were hydrogenated in the presence of 35 mg 5% Pd on carbon. Filtration and evaporation of the solvent yielded 0.11 g (92%) (R)-1-[3-[6-[3-[(R)-2-carboxy-pyrrolidin-1-yl]-3-oxo-propyl]-pyridin-2-yl]propionyl]-pyrrolidine-2-carboxylic acid as colorless oil. MS-ISP: 418 (M+H)+.

reactant | (R)-1-[3-[6-[3-[(R)-2-benzyloxycarbonyl-pyrrolidin-1-yl]-3-oxo-propyl]-pyridin-2-yl]-propionyl]-pyrrolidine-2-carboxylic acid benzyl ester | 0.29 mmol, 0.17 g | C(C1=CC=CC=C1)OC(=O)[C@@H]1N(CCC1)C(CCC1=NC(=CC=C1)CCC(=O)N1[C@H](CCC1)C(=O)OCC1=CC=CC=C1)=O | C35H39N3O6
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | Pd on carbon | 35 mg | [Pd] | Pd
product | (R)-1-[3-[6-[3-[(R)-2-carboxy-pyrrolidin-1-yl]-3-oxo-propyl]-pyridin-2-yl]propionyl]-pyrrolidine-2-carboxylic acid | 0.11 g, 92% | C(=O)(O)[C@@H]1N(CCC1)C(CCC1=CC=CC(=N1)CCC(=O)N1[C@H](CCC1)C(=O)O)=O | C21H27N3O6
